US04211783
Preparation of 11-bromo-1-(p-toluenesulfonyloxy)undecane
A solution of 30 g. 11-bromoundecyl alcohol and 25.0 g. 4-toluenesulfonyl chloride in 250 ml. dry ether is cooled with stirring in an ice-water bath. To this is added dropwise 13.2 g. triethylamine in 50 ml. ether. After addition, the solution is stirred in the cold for 1 hour and filtered. The ether is washed with 100 ml. 10% hydrochloric acid solution, 100 ml. brine, dried and evaporated to yield the title compound as an oily solid.

reactant | 11-bromoundecyl alcohol | BrCCCCCCCCCCCO | C11H23BrO
reactant | 4-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | 11-bromo-1-(p-toluenesulfonyloxy)undecane | BrCCCCCCCCCCCOS(=O)(=O)C1=CC=C(C=C1)C | C18H29BrO3S
